US08084448B2
D. N-(3-Iodopropyl)-N-isopropylbenzenesulfonamide
To a solution of triphenylphosphine (4.4 g, 16.6 mmol) and imidazole (1.2 g, 16.7 mmol) in CH2Cl2 (40 mL) at RT, is added iodine (4.3 g, 17 mmol) portionwise. To this solution is added N-(3-hydroxypropyl)-N-isopropylbenzenesulfonamide (4.2 g, 16.5 mmol) in CH2Cl2 (8 mL) dropwise and the mixture allowed to stir at RT for 18 h. The mixture is then filtered and the filtrate concentrated to an oil, which is partitioned between ether and saturated sodium thiosulfate. The aqueous phase is extracted with ether. The combined organic layers are reduced to 10 mL and then filtered through a plug of silica, eluting with hexane. Evaporation of solvent affords the title compound.

reactant | triphenylphosphine | 16.6 mmol, 4.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 16.7 mmol, 1.2 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 17 mmol, 4.3 g | II | I2
reactant | N-(3-hydroxypropyl)-N-isopropylbenzenesulfonamide | 16.5 mmol, 4.2 g | OCCCN(S(=O)(=O)C1=CC=CC=C1)C(C)C | C12H19NO3S
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Iodopropyl)-N-isopropylbenzenesulfonamide | ICCCN(S(=O)(=O)C1=CC=CC=C1)C(C)C | C12H18INO2S
